US06284755B1
Step A: Preparation of 3-Methoxy Benzenesulfonyl Morpholine
3-Methoxybenzenesulfonyl chloride (0.20 g, 0.968 mmol) in acetone (2 mL) at 0° C. was treated with excess morpholine (0.253 mL, 2.9 mmol) with stirring. After 0.5 hr the reaction mixture was partitioned between CH2Cl2 (1 mL) and 1N HCl, the organic layer separated, washed with brine, dried (Na2SO4), filtered and concentrated to dryness to give the title compound.

reactant | 3-Methoxybenzenesulfonyl chloride | 0.968 mmol, 0.20 g | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
reactant | morpholine | 2.9 mmol, 0.253 mL | N1CCOCC1 | C4H9NO
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 3-Methoxy Benzenesulfonyl Morpholine | COC=1C=C(C=CC1)S(=O)(=O)N1CCOCC1 | C11H15NO4S
